US07964580B2
2′-Deoxy-2′-fluoro-2′-C-methylcytidine (1.0 g, 1 eq) (Clark, J., et al., J. Med. Chem., 2005, 48, 5504-5508) was dissolved in 10 ml of anhydrous pyridine and concentrated to dryness in vacuo. The resulting syrup was dissolved in 20 ml of anhydrous pyridine under nitrogen and cooled to 0° C. with stirring. The brown solution was treated with benzoyl chloride (1.63 g, 3 eq) dropwise over 10 min. The ice bath was removed and stirring continued for 1.5 h whereby thin-layer chromatography (TLC) showed no remaining starting material. The mixture was quenched by addition of water (0.5 ml) and concentrated to dryness. The residue was dissolved in 50 mL of dichloromethane (DCM) and washed with saturated NaHCO3 aqueous solution and H2O. The organic phase was dried over NaSO4 and filtered, concentrated to dryness to give N4, 3′,5′-tribenzoyl-2′-Deoxy-2′-fluoro-2′-C-methylcytidine (2.0 g, Yield: 91%).

reactant | 2′-Deoxy-2′-fluoro-2′-C-methylcytidine | 1.0 g, 1 eq | F[C@]1([C@@H](O[C@@H]([C@H]1O)CO)N1C(=O)N=C(N)C=C1)C | C10H14FN3O4
reactant | benzoyl chloride | 1.63 g, 3 eq | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | N4, 3′,5′-tribenzoyl-2′-Deoxy-2′-fluoro-2′-C-methylcytidine | 2.0 g, Yield: 91% | C(C1=CC=CC=C1)(=O)NC1=NC(N([C@H]2[C@]([C@](O)([C@@H](C(O)C(C3=CC=CC=C3)=O)O2)C(C2=CC=CC=C2)=O)(C)F)C=C1)=O | C31H26FN3O7
